* C:\College\Spring26\Sensors\Project\6410_instrumentation_amplifier.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 N006 N004 V_pos V_nev N005 LT1793 ;§pnba In+)In-)V+)V-)OUT
X§U2 N011 N009 V_pos V_nev N010 LT1793 ;§pnba In+)In-)V+)V-)OUT
X§U3 N008 N001 V_pos V_nev N007 LT1793 ;§pnba In+)In-)V+)V-)OUT
V1 V_pos 0 5
V2 0 V_nev 5
R1 N005 N004 {R1}
R2 N004 N009 {Rg}
R3 N009 N010 {R1}
R4 N001 N005 {R2}
R5 N002 N001 {R3}
R6 N008 N010 {R2}
R7 0 N008 {R3}
R8 N003 Vb 8.83k
R9 Vb 0 8.85k
R10 N003 Va 8.8k
R11 Va 0 8.8k
V5 N003 0 5V
V3 N006 N011 2.04
C2 N002 N007 0.22µ
C1 NC_01 NC_02 {Cbp}
C3 NC_03 NC_04 {Cbp}
C4 NC_05 NC_06 {Cbp}
C5 NC_07 NC_08 {Cbp}
C6 NC_09 NC_10 {Cbp}
C7 NC_11 NC_12 {Cbp}
X§U4 N016 N014 V_pos V_nev N015 LT1793 ;§pnba In+)In-)V+)V-)OUT
X§U5 N021 N019 V_pos V_nev N020 LT1793 ;§pnba In+)In-)V+)V-)OUT
X§U6 N018 N012 V_pos V_nev N017 LT1793 ;§pnba In+)In-)V+)V-)OUT
R12 N015 N014 {R1}
R13 N014 N019 {Rg}
R14 N019 N020 {R1}
R15 N012 N015 {R2}
R16 N013 N012 {R3}
R17 N018 N020 {R2}
R18 0 N018 {R3}
V4 N016 N021 2.04
C8 N013 N017 0.22µ
C9 V_nev 0 {Cbp}
C10 V_pos 0 {Cbp}
C11 0 V_nev {Cbp}
C12 V_nev 0 {Cbp}
C13 0 V_pos {Cbp}
C14 0 V_pos {Cbp}
.param R1=10K
.param R2=10k
.param R3=10k
.param Rg=20k
.param Rg2=10k
.param Cbp=4.7u
.tran 0.1
* Library below included based on ModelFile attribute of instance X§U1, X§U2, X§U3, X§U4, X§U5, X§U6 (C:\Users\brend\AppData\Local\LTspice\lib\sym\OpAmps\LT1793.asy)
.lib LTC.lib
.backanno
.end
